US07241791B2
Step 2: 4-[1-isopropyl-7-(trifluoromethyl)-1H-indazol-3-yl]phenol
Prepared according to Method D step C from 3-(4-methoxyphenyl)-1-isopropyl-7-trifluoromethyl-1H-indazole (0.043 g, 0.13 mmol), boron tribromide (0.094 mL, 1.0 mmol) and 0.3 mL of cyclohexene to give the product (0.032 g) as an off-white solid, mp 156–157° C.

reactant | 3-(4-methoxyphenyl)-1-isopropyl-7-trifluoromethyl-1H-indazole | 0.13 mmol, 0.043 g | COC1=CC=C(C=C1)C1=NN(C2=C(C=CC=C12)C(F)(F)F)C(C)C | C18H17F3N2O
reactant | boron tribromide | 1.0 mmol, 0.094 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-[1-isopropyl-7-(trifluoromethyl)-1H-indazol-3-yl]phenol | 0.032 g | C(C)(C)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=CC=C(C=C1)O | C17H15F3N2O
